US07163906B2
bis(cyclopentadienyl)hafnium dichloride;
1,2-ethanediylbis(η5-1-indenyl)di-n-butoxyhafnium; 1,2-ethanediylbis(η5-1-indenyl)dimethylzirconium; 3,3-pentanediylbis((η5-4,5,6,7-tetrahydro-1-indenyl)hafnium dichloride; methylphenylsilylbis(η5-4,5,6,7-tetrahydro-1-indenyl)zirconium dichloride; bis(n-butylcyclopentadienyl)bis(di-t-butylamido)hafnium; bis(n-butylcyclopentadienyl)zirconium dichloride; dimethylsilylbis(1-indenyl)zirconium dichloride; octylphenylsilylbis(1-indenyl)hafnium dichloride; dimethylsilylbis(η5-4,5,6,7-tetrahydro-1-indenyl)zirconium dichloride; dimethylsilylbis(2-methyl-1-indenyl)zirconium dichloride; 1,2-ethanediylbis(9-fluorenyl)zirconium dichloride; indenyl diethoxy titanium(IV) chloride; (isopropylamidodimethylsilyl)cyclopentadienyltitanium dichloride; bis(pentamethylcyclopentadienyl)zirconium dichloride; bis(indenyl)zirconium dichloride; bis(indenyl)zirconium dichloride; methyloctylsilyl bis(9-fluorenyl)zirconium dichloride; bis-[1-(N,N-diisopropylamino)boratebenzene]hydridozirconium trifluoromethylsulfonate; or any combination thereof.

reactant | octylphenylsilylbis(1-indenyl)hafnium dichloride | [Cl-].[Cl-].C(CCCCCCC)[Hf](C1C=CC2=CC=CC=C12)(C1C=CC2=CC=CC=C12)[SiH2]C1=CC=CC=C1
catalyst | bis(n-butylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].C(CCC)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCCC
catalyst | dimethylsilylbis(1-indenyl)zirconium dichloride | [Cl-].[Cl-].C[SiH](C)[Zr+2](C1C=CC2=CC=CC=C12)C1C=CC2=CC=CC=C12
catalyst | dimethylsilylbis(2-methyl-1-indenyl)zirconium dichloride | [Cl-].[Cl-].C[SiH](C)[Zr+2](C1C(=CC2=CC=CC=C12)C)C1C(=CC2=CC=CC=C12)C
catalyst | indenyl diethoxy titanium(IV) chloride | C1(C=CC2=CC=CC=C12)[Ti](OCC)(OCC)Cl
catalyst | bis(pentamethylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+2]C1(C(=C(C(=C1C)C)C)C)C)C)C)C
catalyst | bis(indenyl)zirconium dichloride | [Cl-].[Cl-].C1(C=CC2=CC=CC=C12)[Zr+2]C1C=CC2=CC=CC=C12
catalyst | methyloctylsilyl bis(9-fluorenyl)zirconium dichloride | [Cl-].[Cl-].C[Zr](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C2=CC=CC=C2C=2C=CC=CC12)[SiH2]CCCCCCCC
product | bis(cyclopentadienyl)hafnium dichloride | [Cl-].[Cl-].C1(C=CC=C1)[Hf+2]C1C=CC=C1 | InChI=1S/2C5H5.2ClH.Hf/c2*1-2-4-5-3-1;;;/h2*1-5H;2*1H;/q;;;;+2/p-2
